US07612075B2
F. (±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-(5-chloro-1H-indol-2-ylmethyl)-6-oxo-piperazine-2-carboxylic acid methyl ester.
To a solution containing (±)-2-[4-(4-amino-quinazolin-7-ylmethyl)-3-methoxycarbonyl-5-oxo-piperazin-1-ylmethyl]-5-chloro-indole-1-carboxylic acid tert-butyl ester (26 mg, 0.03 mmol) in CH2Cl2 (4 mL) is added trifluoroacetic acid (1 mL) at ambient temperature. After 4 h, the reaction mixture is concentrated in vacuo and then dissolved in water/CH3CN and purified by reverse-phase HPLC [Buffer A: water w/0.1% TFA; Buffer B: CH3CN w/0.1% TFA; Gradient: 0% B to 60% B over 30 min] to provide 10 mg (47%) of the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO) δ2.62 (m, 1H), 3.05-3.51 (m, 4H), 3.59 (s, 3H), 3.81 (d, J=14.0 Hz, 1H), 4.26 (m, 1H), 4.69 (ABq, ΔAB=310 Hz, JAB=16.4 Hz, 2H), 6.26 (s, 1H), 7.02 (dd, J=8.6, 2.0 Hz, 1H), 7.31 (d, J=8.6 Hz, 1H), 7.49 (d, J=2.0 Hz, 1H), 7.52 (s, 1H), 7.61 (d, J=8.7 Hz, 1H), 8.30 (d, J=8.6 Hz, 1H), 8.47 (s, 1H), 8.77 (s, 1H), 9.69 (br s, 2H), 11.17 (s, 1H) ppm; MS (ion spray): m/z 479 (M+H).

reactant | (±)-2-[4-(4-amino-quinazolin-7-ylmethyl)-3-methoxycarbonyl-5-oxo-piperazin-1-ylmethyl]-5-chloro-indole-1-carboxylic acid tert-butyl ester | 0.03 mmol, 26 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)Cl)CN1CC(N(C(C1)=O)CC1=CC=C2C(=NC=NC2=C1)N)C(=O)OC | C29H31ClN6O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-(5-chloro-1H-indol-2-ylmethyl)-6-oxo-piperazine-2-carboxylic acid methyl ester | 10 mg, 47% | COC(=O)C1N(C(CN(C1)CC=1NC2=CC=C(C=C2C1)Cl)=O)CC1=CC=C2C(=NC=NC2=C1)N | C24H23ClN6O3
